US08193236B2
4-Chloromethyl-6-methyl-chromen-2-one
To a mixture of 4-methylphenol (21.6 g, 200 mmol) and 4-chloro-3-oxo-butyric acid ethyl ester (32.9 g, 200 mmol) is added dropwise during 30 min. at 0° C. a mixture of concentrated sulfuric acid (180 mL) and water (60 mL). The resulting clear solution is stirred for 18 h at room temperature, during which time a white precipitate is formed. The reaction mixture is poured over crushed ice (1 kg) and the formed precipitate is collected, washed with water and dried in vacuo at 50° C. to yield the title compound as a white powder (35.8 g, 172 mmol, 86%). 1NMR (400 MHz, CDCl3, 298 K): δ=7.45 (s, 1H), 7.40 (d, J=8.6 Hz, 1H), 7.29 (d, J=8.6 Hz, 1H), 6.58 (s, 1H), 4.69 (s, 1H), 2.46 (s, 3H).

reactant | 4-methylphenol | 200 mmol, 21.6 g | CC1=CC=C(C=C1)O | C7H8O
reactant | 4-chloro-3-oxo-butyric acid ethyl ester | 200 mmol, 32.9 g | C(C)OC(CC(CCl)=O)=O | C6H9ClO3
reactant | sulfuric acid | 180 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 60 mL | O | H2O
product | 4-Chloromethyl-6-methyl-chromen-2-one | 172 mmol, 35.8 g, 86% | ClCC1=CC(OC2=CC=C(C=C12)C)=O | C11H9ClO2
